US05262433
To a solution of 1 g (4.76 mM) of [5-(3-thienyl)tetrazol-1-yl]acetic acid and 590 mg (5.71 mM) of 1,5-pentanediol in 10 ml of N,N-dimethylformamide was added 1.08 g (5.23 mM) of dicyclohexylcarbodiimide at room temperature. After the mixture was stirred at room temperature for 30 min, a small amount of acetic acid was added to the mixture and then was stirred for 30 min. The mixture was poured into ice-water. The precipitated crystal was filtered off and washed with water. The filtrate was extracted with ethyl acetate. The organic phase was washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography (eluent: chloroform/ethyl alcohol=60/0) for separation and purification, to give 670 mg (yield 47.5%) of [5-(3-thienyl)tetrazol-1-yl]acetic acid 5-hydroxypentyl ester.

reactant | [5-(3-thienyl)tetrazol-1-yl]acetic acid | 4.76 mM, 1 g | S1C=C(C=C1)C1=NN=NN1CC(=O)O | C7H6N4O2S
reactant | 1,5-pentanediol | 5.71 mM, 590 mg | C(CCCCO)O | C5H12O2
reactant | dicyclohexylcarbodiimide | 5.23 mM, 1.08 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | [5-(3-thienyl)tetrazol-1-yl]acetic acid 5-hydroxypentyl ester | 670 mg, yield 47.5% | OCCCCCOC(CN1N=NN=C1C1=CSC=C1)=O | C12H16N4O3S
